*****************************************************************
* NXP BUK7Y7R2-60E
*
* Polarity N-Channel
* Ratings 60V/7.200000E-003OHMS/100A
*
* Date Created Thu Sep 26 10:04:02 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y7R2-60E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 6000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00150215797665495 TC=0.00439681206261619,4.16427730744924E-05
RBD 9 4 0.000627375838583507 TC=0.00439681206261619,4.16427730744924E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 2.31093815185287e-09
RG 1 2 2.1

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2391.88
+ -16	2390.33
+ -10	2385.17
+ -5	2339.62
+ -4	2303.37
+ -3	2224.34
+ -2	1904.15
+ -1	1502.28
+ -0.5	1197.37
+ -0.2	976.819
+ -0.1	971.593
+ 0	848.392
+ 0.1	668.29828
+ 0.2	667.51848
+ 0.5	568.96328
+ 1	491.96008
+ 2	399.03064
+ 3	351.90416
+ 4	324.78868
+ 5	307.14104
+ 6	294.70292
+ 8	277.5734
+ 10	265.374
+ 12	255.644
+ 15	243.75204
+ 16	240.11584
+ 20	228.33796
+ 25	216.79528
+ 30	208.1912
+ 50	190.39196



.MODEL MINT NMOS(Vto=3.80909502761293 Kp=7.588839e+001 Nfs=1010000000000 Eta=10000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=5.01305502873997e-13
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=1.333364e-09 Tt=1.4968e-08)

.ENDS

